US05843942
tert-Butyl-4-[N-(2-benzyloxybenzyl)-N-ethylamino]-2-fluorobenzoate (1.81 g) in formic acid (5 mL) was heated on a steam bath until a clear solution was obtained. The reaction mixture was evaporated to dryness and the oil obtained solidified on trituration with diethyl ether to give 4-[N-(2-benzyloxybenzyl)-N-ethylamino]-2-fluorobenzoic acid, yield 0.51 g, mp 154° C.

reactant | tert-Butyl-4-[N-(2-benzyloxybenzyl)-N-ethylamino]-2-fluorobenzoate | 1.81 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)N(CC)CC1=C(C=CC=C1)OCC1=CC=CC=C1)F)=O | C27H30FNO3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | 4-[N-(2-benzyloxybenzyl)-N-ethylamino]-2-fluorobenzoic acid | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=CC(=C(C(=O)O)C=C2)F)C=CC=C1 | C23H22FNO3
